US07414050B2
a) 1-(2-Trimethylsilanyl-ethoxymethyl)-1H-imidazole-2-carboxylic acid ethyl ester
A flask charged with 1H-imidazole-2-carboxylic acid ethyl ester (1.03 g, 7.36 mmol), K2CO3 (2.00 g, 14.5 mmol), SEM-Cl (1.56 mL, 8.89 mmol), and 20 mL of acetone was stirred for 10 h at RT. The reaction was diluted with EtOAc (100 mL), washed with NaHCO3 (2×100 mL), brine (100 mL), and the organic layer dried over Na2SO4 and concentrated. The title compound was eluted from a 20-g SPE with 50% EtOAc/hexanes to give 1.50 g (76%) of a colorless oil. Mass spectrum (ESI, m/z): Calcd. for C12H22N3O3Si, 271.1 (M+H). found 271.1.

reactant | 1H-imidazole-2-carboxylic acid ethyl ester | 7.36 mmol, 1.03 g | C(C)OC(=O)C=1NC=CN1 | C6H8N2O2
reactant | K2CO3 | 14.5 mmol, 2.00 g | C(=O)([O-])[O-].[K+].[K+]
reactant | SEM-Cl | 8.89 mmol, 1.56 mL | C[Si](C)(C)CCOCCl | C6H15ClOSi
reactant | acetone | 20 mL | CC(=O)C | C3H6O
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | 1-(2-Trimethylsilanyl-ethoxymethyl)-1H-imidazole-2-carboxylic acid ethyl ester | 1.50 g, 76% | C(C)OC(=O)C=1N(C=CN1)COCC[Si](C)(C)C | C12H22N2O3Si
